US07157483B2
2.1) 2-bromo-1-(4-isobutylphenyl)ethanone:
Bromine (1.25 ml; 25 mmol) is added dropwise to a solution of 4′-isobutylacetophenone (3.52 g; 20 mmol) in 60 ml of ethanol cooled down to approximately 5° C. After stirring the reaction mixture for 30 minutes at this temperature, stirring is continued for one hour at ambient temperature. The reaction medium, to which small portions of toluene are added, is concentrated to dryness. After purification on a silica column (eluent: ethyl-heptane acetate: 5-95), a colourless oil is obtained with a yield of 57%.

reactant | Bromine | 25 mmol, 1.25 ml | BrBr | Br2
reactant | 4′-isobutylacetophenone | 20 mmol, 3.52 g | C(C(C)C)C1=CC=C(C=C1)C(C)=O | C12H16O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2-bromo-1-(4-isobutylphenyl)ethanone | yield of 57% | BrCC(=O)C1=CC=C(C=C1)CC(C)C | C12H15BrO
